US04910200
Sodium p-chlorothiophenoxide was prepared from p-chlorothiophenol (4.3 g) in methanol (10 ml) and sodium methoxide (5.4 g of a 30% sodium methoxide solution) by evaporation in a rotary evaporator. The resulting salt was dissolved, together with 3,4-dimethoxy-4'-fluorobenzophenone (7.8 g) in dimethylformamide (30 ml), and the solution was heated at 100° C. for 3 hours. Then, the reaction mixture was poured into water, and the crystals which precipitated were recrystallized from ethanol.

reactant | p-chlorothiophenol | 4.3 g | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | Sodium p-chlorothiophenoxide | ClC1=CC=C([S-])C=C1.[Na+] | InChI=1S/C6H5ClS.Na/c7-5-1-3-6(8)4-2-5;/h1-4,8H;/q;+1/p-1
